US09023840B2
Step 2: 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-(2,2-difluoroethyl)-2,5-difluorobenzamide
A solution of 4-chloro-N-(2,2-difluoroethyl)-2,5-difluorobenzamide (0.907 g, 3.55 mmol), {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile HCl salt (1.57 g, 3.52 mmol), palladium acetate (55 mg, 0.24 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (285 mg, 0.493 mmol) and cesium carbonate (2.16 g, 6.63 mmol) in toluene (25 mL) was de-gassed and purged with N2 (g) several times prior to heating to 105° C. and stirring for 3 d. LCMS data indicated that ˜50% of the starting material was converted to the desired product. In an effort to drive the reaction to completion a second aliquot of 4-chloro-N-(2,2-difluoroethyl)-2,5-difluorobenzamide (353 mg), palladium acetate (58 mg), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (274 mg), and cesium carbonate (550 mg) was added and stirring was continued overnight at 105° C. LCMS data indicated that there was no significant improvement. The crude reaction mixture was filtered through a pad of celite and the inorganics were washed thoroughly with ethyl acetate. The filtrate was concentrated under reduced pressure and the residue was purified by flash chromatography on a silica gel column with methanol in dichloromethane (0-15%) to afford the desired product (0.789 g).

reactant | 4-chloro-N-(2,2-difluoroethyl)-2,5-difluorobenzamide | 3.55 mmol, 0.907 g | ClC1=CC(=C(C(=O)NCC(F)F)C=C1F)F | C9H6ClF4NO
reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile HCl salt | 3.52 mmol, 1.57 g | Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.493 mmol, 285 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 6.63 mmol, 2.16 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.24 mmol, 55 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-(2,2-difluoroethyl)-2,5-difluorobenzamide | 0.789 g | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)NCC(F)F)C=C1F)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C23H18F4N8O
